US08350044B2
Preparation of (4-chloro-2-pyridin-3-yl-thiazol-5-yl)-methyl-carbamic acid tert-butyl ester (Compound 228)
To a solution of methyl-(2-pyridin-3-yl-thiazol-5-yl)-carbamic acid tert-butyl ester (3.0 g, 10.29 mmol) in acetonitrile (60 mL) was added N-chlorosuccinimide (2.75 g, 20.58 mmol) in one portion and the reaction mixture was stirred at 45° C. for 16 h. The reaction mixture was concentrated and the crude product was purified by silica gel chromatography (0 to 100% ethyl acetate/hexanes) to give the desired product as a yellow solid (2.10 g, 62%): mp 119-122° C.; IR (KBr) 1718 cm−1; 1H NMR (300 MHz, CDCl3) δ 9.08 (s, 1H), 8.67 (d, J=4.2 Hz, 1H), 8.22-8.16 (m, 1H), 7.39 (dd, J=7.9, 5.0 Hz, 1H), 3.26 (s, 3H), 1.46 (s, 9H); ESIMS m/z 326 (M+1).

reactant | methyl-(2-pyridin-3-yl-thiazol-5-yl)-carbamic acid tert-butyl ester | 10.29 mmol, 3.0 g | C(C)(C)(C)OC(N(C1=CN=C(S1)C=1C=NC=CC1)C)=O | C14H17N3O2S
reactant | N-chlorosuccinimide | 20.58 mmol, 2.75 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | (4-chloro-2-pyridin-3-yl-thiazol-5-yl)-methyl-carbamic acid tert-butyl ester | 2.10 g, 62% | C(C)(C)(C)OC(N(C)C1=C(N=C(S1)C=1C=NC=CC1)Cl)=O | C14H16ClN3O2S
